US07585886B2
Oxalyl chloride was added to a dichloromethane solution of DMSO at −78° C. and stirred for 20 minutes. Successively, this was mixed with a dichloromethane solution of 4-(hydroxymethyl)-1-phenylpyrrolidin-2-one and then with triethylamine 15 minutes thereafter, and stirred for 30 minutes. Thereafter, work-up and purification were carried out to obtain 5-oxo-1-phenylpyrrolidine-3-carboaldehyde. EN: 188.

reactant | Oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | DMSO | CS(=O)C | C2H6OS
reactant | 4-(hydroxymethyl)-1-phenylpyrrolidin-2-one | OCC1CC(N(C1)C1=CC=CC=C1)=O | C11H13NO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-oxo-1-phenylpyrrolidine-3-carboaldehyde | O=C1CC(CN1C1=CC=CC=C1)C=O | C11H11NO2
